US07115750B1
N-[4-[(E)-2-Cyanoethenyl]phenyl][1,1′-biphenyl]-4-carboxamide
Cyanuric chloride (727 mg, 3.94 mmol) was added to a dimethylformamide suspension of (E)-3-[4-[([1,1′-biphenyl]-4-ylcarbonyl)amino]phenyl]-2-propenic acid (900 mg, 2.63 mmol) obtained in Reference Example 74 at room temperature, which was stirred for 1 hour. After the solvent was distilled out under reduced pressure, the residue was dissolved in chloroform, which was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then the solvent was stilled out under reduced pressure. The resulting residue was purified by silica gel column chromatography (development solvent; chloroform:ethyl acetate=20:1), to give the titled compound (561 mg) as a colorless powder from diethyl ether.

reactant | Cyanuric chloride | 3.94 mmol, 727 mg | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | (E)-3-[4-[([1,1′-biphenyl]-4-ylcarbonyl)amino]phenyl]-2-propenic acid | 2.63 mmol, 900 mg | C1(=CC=C(C=C1)C(=O)NC1=CC=C(C=C1)/C=C/C(=O)O)C1=CC=CC=C1 | C22H17NO3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-[4-[(E)-2-Cyanoethenyl]phenyl][1,1′-biphenyl]-4-carboxamide | 561 mg | C(#N)/C=C/C1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C22H16N2O
